US05418231
To a solution of the 1,5-dihydro-3-propyl-2H-pyrimido[4,5-b][1,4]benzothiazine-2,4(3H)-dione (0.55 g) in acetonitrile (40 ml) was added dropwise diethylazodicarboxylate (0.52 g) at room temperature. The mixture was stirred for two hours. After the solvent was removed, the residue was triturated with diethylether and filtered to give 3-propyl-2H-pyrimido[4,5-b][1,4]benzothiazine-2,4(3H)-dione (0.43 g, 78% yield).

reactant | 1,5-dihydro-3-propyl-2H-pyrimido[4,5-b][1,4]benzothiazine-2,4(3H)-dione | 0.55 g | C(CC)N1C(NC=2SC3=C(NC2C1=O)C=CC=C3)=O | C13H13N3O2S
reactant | diethylazodicarboxylate | 0.52 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 3-propyl-2H-pyrimido[4,5-b][1,4]benzothiazine-2,4(3H)-dione | 0.43 g, 78% yield | C(CC)N1C(N=C2SC3=C(N=C2C1=O)C=CC=C3)=O | C13H11N3O2S
